US04980371
When in the procedure of Example 1(B) an appropriate amount of 5-(9,12,15-hexadecatrienyloxy)-2-furoic acid is substutited for 5-tetradecyloxy-2-furoic acid, methyl 5-(9,12,15-hexadecatrienyloxy)-2-furyl ketone is obtained.

reactant | 5-(9,12,15-hexadecatrienyloxy)-2-furoic acid | C(CCCCCCCC=CCC=CCC=C)OC1=CC=C(O1)C(=O)O | C21H30O4
reactant | 5-tetradecyloxy-2-furoic acid | C(CCCCCCCCCCCCC)OC1=CC=C(O1)C(=O)O | C19H32O4
product | methyl 5-(9,12,15-hexadecatrienyloxy)-2-furyl ketone | C(CCCCCCCC=CCC=CCC=C)OC1=CC=C(O1)C(=O)C | C22H32O3
